US08492549B2
1-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester
The title compound was prepared using 200 mg (1.21 mmol) of 2,3-dihydro-benzo[1,4]dioxin-2-ylmethylamine and 0.17 mL (1.21 mmol) of dimethyl itaconate according to the procedure for substituted pyrrolidines described in J. Org. Chem. 26 (1961) 1519-1524. Purification by column chromatography (silica gel, heptane/ethyl acetate, 1:2) afforded the pure product.

reactant | 2,3-dihydro-benzo[1,4]dioxin-2-ylmethylamine | 1.21 mmol, 200 mg | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
reactant | dimethyl itaconate | 1.21 mmol, 0.17 mL | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
product | 1-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)CC1COC2=C(O1)C=CC=C2 | C15H17NO5
